US07501406B2
4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide was reacted with (2-fluoro-4-methoxy-phenyl)-methanol analogous to Example 3a to afford 4-chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-N-(2-fluoro-4-methoxy-benzyl)-benzenesulfonamide:

reactant | 4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1C(NCCC(C1)(F)F)=O | C12H13ClF2N2O3S
reactant | (2-fluoro-4-methoxy-phenyl)-methanol | FC1=C(C=CC(=C1)OC)CO | C8H9FO2
product | 4-chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-N-(2-fluoro-4-methoxy-benzyl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N(CC1=C(C=C(C=C1)OC)F)[C@H]1C(NCCC(C1)(F)F)=O | C20H20ClF3N2O4S
